US07291635B2
The title M compound, N-[2-benzyloxy-4-(2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[1,4]diazepin-3-ylmethyl)-phenyl]-N-[t-butyloxycarbonylaminosulfonyl]-amino-acetic acid ethyl ester (124 mg, 0.19 mmol) is dissolved in CH2Cl2-TFA-triethylsilane (2.5:7:0.5, 1.5 mL) and the solution is stirred at RT for 1 h and evaporated. The residue is dissolved in EtOAc and the solution is washed twice with saturated aqueous NaHCO3 and brine, dried over anhydrous MgSO4, filtered and evaporated to give N-[2-benzyloxy-4-(2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[1,4]diazepin-3-ylmethyl)-phenyl]-N-[aminosulfonyl]-amino-acetic acid ethyl ester as a foam: [M+1]+=553.

reactant | N-[2-benzyloxy-4-(2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[1,4]diazepin-3-ylmethyl)-phenyl]-N-[t-butyloxycarbonylaminosulfonyl]-amino-acetic acid ethyl ester | 0.19 mmol, 124 mg | C(C)OC(CN(S(=O)(=O)NC(=O)OC(C)(C)C)C1=C(C=C(C=C1)CC1C(NC2=C(C(N1)=O)C=CC=C2)=O)OCC2=CC=CC=C2)=O | C32H36N4O9S
solvent | CH2Cl2-TFA triethylsilane | 1.5 mL | C(Cl)Cl.FC(F)(F)C(=O)O.C(C)[SiH](CC)CC
product | N-[2-benzyloxy-4-(2,5-dioxo-2,3,4,5-tetrahydro-1H-benzo[1,4]diazepin-3-ylmethyl)-phenyl]-N-[aminosulfonyl]-amino-acetic acid ethyl ester | C(C)OC(CN(S(=O)(=O)N)C1=C(C=C(C=C1)CC1C(NC2=C(C(N1)=O)C=CC=C2)=O)OCC2=CC=CC=C2)=O | C27H28N4O7S
